US06514964B1
Step B: (tert-butoxy)-N-(6-but-3-enyl(2-pyridyl))carboxamide
To a stirring solution of (tert-butoxy)-N-(6-methyl(2-pyridyl))carboxamide in tetrahydrofuran (0.1 M) was added n-butyl lithium (2.1 eq) at −78° C. and the solution was warmed to 25° C. and stirred for 1 hr. The solution was then cooled back down to −78° C. followed by addition of allyl bromide (1.5 eq) and continued strirring for 1 hr. The reaction was quenched with saturated ammonium chloride, diluted with ethyl acetate and separated. The organic layer was washed with brine and dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography (5% EtOAc/Hexane). EI-MS m/z 249(M+H)+

reactant | (tert-butoxy)-N-(6-methyl(2-pyridyl))carboxamide | C(C)(C)(C)OC(=O)NC1=NC(=CC=C1)C | C11H16N2O2
reactant | n-butyl lithium | 2.1 eq | C(CCC)[Li]
reactant | allyl bromide | 1.5 eq | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 0.1 M | O1CCCC1 | C4H8O
product | (tert-butoxy)-N-(6-but-3-enyl(2-pyridyl))carboxamide | C(C)(C)(C)OC(=O)NC1=NC(=CC=C1)CCC=C | C14H20N2O2
